2197-05-10 10:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89 yo woman with advanced dementia adm with dehydration and new hct
   drop. Recent LLL pna. Treated with ctx, vanc, then stopped vanc when
   mrsa swab neg. Received 7d ctx. Guaiac + stool. Tachycardic,
   normotensive. Lactate 7.4. Received 6L NS.
   24 Hour Events:
   Lab abnormalities this morning.
   CBC showed drop in all cell lines- dilution with large IVF volume.
   Lactate down to 3.9.
   INR inc 1.5--> 1.7.
   Abx broadened from Flagyl (empiric for CDiff) to add vanc/zosyn.
   History obtained from Medical records
   Patient unable to provide history: dementia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2197-5-10**] 06:35 AM
   Vancomycin - [**2197-5-10**] 08:30 AM
   Metronidazole - [**2197-5-10**] 09:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   PPI, hep sc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-5-10**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 96 (90 - 101) bpm
   BP: 121/51(67) {93/22(43) - 127/74(94)} mmHg
   RR: 28 (23 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             2,686 mL
   PO:
             TF:
   IVF:
   2,686 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,620 mL
   Urine:
   420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,068 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///19/
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), couldn't hear HS due to moaning but
   reportedly has loud systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   melena
   Extremities: Right: 1+, Left: 1+, pressure ulcer right heal and sacral
   stage II (by RN report)
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   7.5 g/dL
   116 K/uL
   169 mg/dL
   0.5 mg/dL
   19 mEq/L
   2.9 mEq/L
   13 mg/dL
   112 mEq/L
   139 mEq/L
   23.0 %
   3.9 K/uL
        [image002.jpg]
                             [**2197-5-10**]  03:43 AM
                             [**2197-5-10**]  08:12 AM
   WBC
   3.8
   3.9
   Hct
   23.5
   23.0
   Plt
   100
   116
   Cr
   0.5
   Glucose
   169
   Other labs: PT / PTT / INR:18.2/30.5/1.7, Alk Phos / T Bili:/0.3,
   Fibrinogen:434 mg/dL, Albumin:2.0 g/dL, LDH:218 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.4 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Lactic acidosis: infection, metformin, renal dysfunction, dehydration.
   No documented hypotension.
   SEPSIS?
   Empiric coverage: PO vanco for CDiff.
   LLL PNA recent diagnosis. No cough or secretions now.
   Ended ctx yesterday after 7d. Nosocomial pna coverage with vanc/zosyn.
   Legionella Ag pending. Influenza screen pending.
   DEMENTIA
   At baseline
   GI bleed.
   Hct drop and melena. Hct has been slowly dropping over past couple of
   weeks.
   H/O large hemorrhoids.
   2 IVs, but access is an issue, particularly for blood draws.
   Cardiac murmur- obtain outside echo result.
   DNR/DNI but need to meet with family regarding goals of care, CVC.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-5-10**] 01:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2197-05-11 07:22:00 Physician Resident Progress Note
Chief Complaint: 89F with advanced dementia who presents with
   dehydration, somnolence, recent Hct drop and significant diarrhea.
   24 Hour Events:
 CARDIAC CATH - At [**2197-5-10**] 04:36 PM
   - D/w family; didn't want pressors or lines at this time.  Very
   difficult stick for blood though.  Attempted PICC placement but failed;
   will need IR guided in the AM
   - Lactate continued to trend down.  HCT remained stable at 23.  no
   pRBCs given.  Hemodynamically stable
   - Cultures without any new growth
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-5-10**] 08:30 AM
   Metronidazole - [**2197-5-10**] 11:56 PM
   Piperacillin - [**2197-5-11**] 01:49 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2197-5-10**] 05:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-5-11**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 73 (66 - 98) bpm
   BP: 128/52(73) {96/40(55) - 128/86(93)} mmHg
   RR: 28 (24 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,324 mL
                                                                    496 mL
   PO:
             TF:
   IVF:
                                                                  5,324 mL
                                                                    496 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    460 mL
   Urine:
                                                                  1,030 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,094 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   116 K/uL
   7.5 g/dL
   124 mg/dL
   0.5 mg/dL
   19 mEq/L
   5.5 mEq/L
   13 mg/dL
   115 mEq/L
   138 mEq/L
   23
   3.9 K/uL
        [image002.jpg]
                             [**2197-5-10**]  03:43 AM
                             [**2197-5-10**]  08:12 AM
                             [**2197-5-10**]  06:51 PM
   WBC
   3.8
   3.9
   Hct
   23.5
   23.0
   23
   Plt
   100
   116
   Cr
   0.5
   Glucose
   169
   124
   Other labs: PT / PTT / INR:18.2/30.5/1.7, Alk Phos / T Bili:/0.3,
   Fibrinogen:434 mg/dL, Lactic Acid:2.8 mmol/L, Albumin:2.0 g/dL, LDH:218
   IU/L, Ca++:6.9 mg/dL, Mg++:1.4 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR [**5-9**]: IMPRESSION: Left lower lobe opacity, may represent
   atelectasis,
   consolidation, or combination of both. Small left pleural effusion.
   Microbiology: C. Diff x1 negative
   C. Diff: pending
   Legionella: Neg
   Urine cx: NGTD
   Blood cx x2: NGTD
   Influenza: Neg
   Assessment and Plan
   89 year old woman with advanced dementia, DM2, GERD presenting with
   altered mental status, lactic acidosis and abdominal pain while
   continuing a recent antibiotic course for pneumonia.
   # Lactic acidosis: Main concern for systemic hypoperfusion (shock) or
   regional hypoperfusion (ischemic bowel) as these would be most
   dangerous.  However her sbp was never below 115 and her heart rate has
   gradually decreased from a max of 103 with IVF.  Minimal temperature
   derangement and relatively normal WBC without bandemia on admission.
   Am labs, however, with decrease in all lines on CBC.  Also minimal
   abdominal pain, although difficult to adequately assess her symptoms
   given her underlying dementia.   Likely multifactorial with combination
   of dehydration and metformin induced as well as concern for sepsis
   given decreased WBC and platelets.
   - DIC and hemolysis labs negative
   - Blood, urine, stool (including c diff x3), sputum cultures if
   possible.  All blood cultures and urine culture were negative at
   outside facility.
   - No peritoneal signs
   - Treat sepsis as below
   - Empiric c dif therapy for now with IV flagyl.  If patient tests
   positive, will likely change to PO Vanco based on ICU stay, age and
   comorbidities.
   # Septic shock: Hospital acquired pneumonia (LLL) with hx of negative
   MRSA screen.  Was started on ceftriaxone on [**5-3**] at [**Hospital 12**] Rehab, and
   received 7 days of treatment.  The patient has known risk factors for
   multi-drug resistent organisms including uncontrolled diabetes, nursing
   home habitation, and severe pressure ulcers.  Started on Vanc/Zosyn for
   broad coverage (possible sources include pna, UTI, pressure ulcers).
   Also with significant diarrhea concerning for C. Diff in the setting of
   abx use.
   - Continue to cover broadly with Vanc/Zosyn
   - DFA for flu negative
   - Urine legionella negative
   - Low threshold to cover atypicals if patient decompensates
   - DIC labs negative
   - Continue to monitor respiratory status
   # Altered Mental status: Per family, appears to be at baseline.  Has
   had significant decline over the past few weeks with regard to ability
   to do self-care.  She developed fever and delirium during her initial
   admission around [**5-1**] with some improvement after treatment for
   underlying pna and dehydration.
   - Continue to monitor
   - Lights on in am, lights out in pm to avoid sundowning
   - Continue frequent reorientation and monitoring
   - Correct any underlying infection or electrolyte disturbance
   # Acute on chronic blood loss anemia secondary to GI bleed: After
   patient was started on abx for her pneumonia, she developed decreasing
   Hct, from 32->26.5. Also in the setting of agressive volume
   resuscitation.  On admission was 31, now stable at 23 after significant
   volume resuscitation (she rec'd 6 L NS in the ED).  Guaiac negative in
   the ED, positive here. Unclear what her baseline hct is.
   - Continue to trend
   - Guaiac all stools, heme positive loose stool though patient has large
   hemorrhoids
   - IVF for volume prn
   - Consider GI consult if patient develops significant bleed
   - Maintain 2 large bore IVs
   # Diabetes mellitus type 2: By report, has been poorly controlled.
   Patient was on metformin prior, now has a lactic acidosis, likely in
   the setting of continuing metformin with poor PO and diarrhea.  Also on
   lisinopril at home, low dose (? for renal protection vs. hypertension)
   - Hold oral agents metformin and glipizide
   - D/c metformin indefinitely
   - Continue insulin sliding scale
   - Hold lisinopril pending improvement in blood pressures and treatment
   of infection
   # Wound care: Patient has stage II decubitus ulcer and pressure ulcers
   on her heel.
   - Wound care consult in am
   # FEN: IVF prn as above, replete lytes prn
   # PPX: Pneumoboots, NPO for now. Will need to confirm PO consistency
   prior to restarting POs. Omeprazole as per outpatient regimen
   # Code: DNR/I confirmed with patient's daughter/HCP (hcp [**First Name8 (NamePattern2) 2200**]
   [**Name (NI) 2201**] [**Telephone/Fax (1) 2202**], [**Telephone/Fax (1) 2203**]), no central lines
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-5-10**] 01:32 AM
   20 Gauge - [**2197-5-10**] 11:03 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  Pantoprazole
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Consider call-out to medicine floor

2197-05-11 11:57:00 Physician Attending Progress Note
Chief Complaint: dehydration, lactic acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Dementia, being empirically treated for CDiff sepsis, altered MS
   improved to baseline
   24 Hour Events:
 CARDIAC CATH - At [**2197-5-10**] 04:36 PM
   Lactate improved
   Unable to place PICC at bedside, ordered for IR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2197-5-11**] 07:57 AM
   Piperacillin - [**2197-5-11**] 07:58 AM
   Vancomycin - [**2197-5-11**] 07:58 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2197-5-10**] 05:17 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Myalgias
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2197-5-11**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 97 (66 - 97) bpm
   BP: 116/100(104) {96/40(56) - 128/100(104)} mmHg
   RR: 32 (24 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,324 mL
                                                                    942 mL
   PO:
             TF:
   IVF:
                                                                  5,324 mL
                                                                    942 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    745 mL
   Urine:
                                                                  1,030 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,094 mL
                                                                    197 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   116 K/uL
   124 mg/dL
   0.5 mg/dL
   19 mEq/L
   5.5 mEq/L
   13 mg/dL
   115 mEq/L
   138 mEq/L
   23
   3.9 K/uL
        [image002.jpg]
                             [**2197-5-10**]  03:43 AM
                             [**2197-5-10**]  08:12 AM
                             [**2197-5-10**]  06:51 PM
   WBC
   3.8
   3.9
   Hct
   23.5
   23.0
   23
   Plt
   100
   116
   Cr
   0.5
   Glucose
   169
   124
   Other labs: PT / PTT / INR:18.2/30.5/1.7, Alk Phos / T Bili:/0.3,
   Fibrinogen:434 mg/dL, Lactic Acid:2.8 mmol/L, Albumin:2.0 g/dL, LDH:218
   IU/L, Ca++:6.9 mg/dL, Mg++:1.4 mg/dL, PO4:1.8 mg/dL
   Microbiology: CDiff neg x 2
   Assessment and Plan
   LACTIC ACIDOSIS: infection, metformin, renal dysfunction, dehydration.
   No documented hypotension.
   Resolved with IV fluids.
   SEPSIS
   Empiric coverage: PO vanco for CDiff but now CDiff neg x 2. Continue
   until r/o. If neg, then attribute to viral gastroenteritis.
   LLL PNA recent diagnosis and s/p 7d ctx. No cough or secretions now.
   Will stop nosocomial pna coverage with vanc/zosyn.
   DEMENTIA
   At baseline
   GI BLEED
   Hct drop and melena. Hct has been slowly dropping over past couple of
   weeks.
   H/O large hemorrhoids.
   2 IVs, but access is an issue, particularly for blood draws.
   Check hct and decide PRBC transfusion.
   Start PO diet- have RN try thick liquid.
   Pantoprazole
   Pneumoboots
   Got PICC line.
   DNR/DNI and no pressors or central line.
   Family to get input from palliative care service today.
   18 Gauge - [**2197-5-10**] 01:32 AM
   20 Gauge - [**2197-5-10**] 11:03 AM
   PICC Line - [**2197-5-11**] 10:42 AM